US07288537B2
A solution of 1-Benzhydryl-azetidine-3-carbonitrile (23.6 g, 95 mmol) in chlorobenzene (250 ml) under nitrogen is treated with a 1.0 M solution of 4-chlorophenylmagnesium bromide in diethylether (100 ml, 100 mmol) over one hour, ensuring the temperature does not exceed 30° C. The stirred reaction mixture is heated to 60° C. for 1 hour, then cooled back to ambient temperature and quenched with a saturated aqueous solution of ammonium chloride (250 ml). The organic phase is washed with brine, dried over magnesium sulphate, and evaporated to a yellow oil. The oil is dissolved in methanol (300 ml), treated with concentrated hydrochloric acid (25 ml), and stirred at ambient temperature for 18 hours. The solvent is evaporated and the residue partitioned between ethylacetate (250 ml) and saturated sodium bicarbonate solution (250 ml). The aqueous phase is extracted with more ethylacetate and the combined organic phases, treated with magnesium sulphate and charcoal, filtered and evaporated to afford (1-Benzhydryl-azetidin-3-yl)-(4-chloro-phenyl)-methanone. [MH]+ 361.99

reactant | 1-Benzhydryl-azetidine-3-carbonitrile | 95 mmol, 23.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | 4-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | diethylether | 100 mmol, 100 ml | C(C)OCC | C4H10O
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
product | (1-Benzhydryl-azetidin-3-yl)-(4-chloro-phenyl)-methanone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)C1=CC=C(C=C1)Cl | C23H20ClNO
